US09399798B2
A mixture of (S)-1-(4-iodo-5-methoxy-2-nitrophenyl)-2,2-dimethyl-1-propyl(1S)-camphanate (1.1 g, 2.0 mmol) and K2CO3 (552 mg, 4.0 mmol) in methanol (50 mL) was heated to reflux for one hour, then cooled down, concentrated in vacuo, and diluted with CH2Cl2 (50 mL). The organic phase was washed with brine (50 mL), dried over Na2SO4, concentrated in vacuo, and the residue was purified by silica gel column chromatography to yield enantiopure (S)-1-(4-iodo-5-methoxy-2-nitrophenyl)-2,2-dimethyl-1-propanol (720 mg, 98%). 1H NMR (400 MHz, CDCl3): δ 8.32 (s, 1H, Ph-H), 7.17 (s, 1H, Ph-H), 5.60 (d, 1H, J=4.0 Hz, PhCH), 3.98 (s, 3H, OCH3), 2.12 (d, 1H, J=4.0 Hz, OH), 0.89 (s, 9H, C(CH3)3).

reactant | (S)-1-(4-iodo-5-methoxy-2-nitrophenyl)-2,2-dimethyl-1-propyl(1S)-camphanate | 2.0 mmol, 1.1 g | [C@]12(C(CC(CC1)C2(C)C)C(=O)O[C@@H](C(C)(C)C)C2=C(C=C(C(=C2)OC)I)[N+](=O)[O-])C | C23H32INO5
reactant | K2CO3 | 4.0 mmol, 552 mg | C(=O)([O-])[O-].[K+].[K+]
solvent | methanol | 50 mL | CO | CH4O
product | (S)-1-(4-iodo-5-methoxy-2-nitrophenyl)-2,2-dimethyl-1-propanol | 720 mg, 98% | IC1=CC(=C(C=C1OC)[C@H](C(C)(C)C)O)[N+](=O)[O-] | C12H16INO4
